US06878714B2
6-Hydroxy-pyrimidine-4-carbaldehyde oxime (9.3 g, 67 mmol) was stirred in 37 ml POCl3 under N2 at 40° C. for 30 min, 60° C. for 30 min, and 80° C. for one h. N,N,-Dimethylaniline was added very slowly by syringe, and stirred for one h at 80° C. After cooling to 0° C., the mixture was poured into a separatory funnel containing 300 g of ice. The mixture was carefully swirled, then extracted with 500 ml t-BuOMe. The organic layer was washed with 1 N HCl (4×100 ml), then several times with NaHCO3, then brine. Acidic and basic aqueous layers were separately back-extracted with t-BuOMe, and the organics again washed with 1 N HCl, saturated aqueous NaHCO3, and brine. The combined organic layers were dried with Na2SO4 and concentrated by rotary evaporator. The residue was filtered through a pad of silica gel, applying in CH2Cl2 and eluting with 10:1 hexanes/t-BuOMe. Fractions were carefully concentrated to obtain 6-chloro-pyrimidine-4-carbonitrile as a (volatile) pale yellow, semi-crystalline solid.

reactant | 6-Hydroxy-pyrimidine-4-carbaldehyde oxime | 67 mmol, 9.3 g | OC1=CC(=NC=N1)C=NO | C5H5N3O2
reactant | N,N,-Dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 37 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-pyrimidine-4-carbonitrile | ClC1=CC(=NC=N1)C#N | C5H2ClN3
